US08357679B2
A: (S)-1,1,1,3,3,3-Hexafluoro-2-(4-((3-methylpiperazin-1-yl)methyl)phenyl)propan-2-ol
(S)-2-Methylpiperazine (28 mmol, 2.8 g), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (28 mmol, 9.42 g) and potassium carbonate (55.9 mmol, 9.42 g) were stirred at room temperature in acetonitrile (50 mL) overnight The reaction mixture was diluted with ethyl acetate and filtered through dicalite. The filtrate was concentrated under vacuum and the resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 85/15/1.5 dichloromethane/methanol/ammonia) to afford the title compound (4.55 g). MS (ESI) m/z 357.0 [M+H]+

reactant | (S)-2-Methylpiperazine | 28 mmol, 2.8 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 28 mmol, 9.42 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 55.9 mmol, 9.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1,1,1,3,3,3-Hexafluoro-2-(4-((3-methylpiperazin-1-yl)methyl)phenyl)propan-2-ol | 4.55 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1C[C@@H](NCC1)C)(F)F | C15H18F6N2O
